US03950528
3-Amino-1-(3-chloro-4-methylbenzyl)-pyrazol-5-one ##SPC21##
50 g of 4-methyl-3-chlorobenzylhydrazine were added dropwise, under nitrogen, to a solution of 46.7 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1.5 g of p-toluenesulphonic acid in 200 ml of ethanol. After stirring for a further 2 hours, the compound identified above precipitated. It was filtered off and recrystallised from ethanol. Melting point: 130°-131°, 35 g (50%).

reactant | 4-methyl-3-chlorobenzylhydrazine | 50 g | CC1=C(C=C(CNN)C=C1)Cl | C8H11ClN2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 46.7 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-chloro-4-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)C)Cl | C11H12ClN3O
